US05268377
To a mixture of 2-n-propyl-4-(2-aminoethyl)-1-{2'-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl}methylimidazole (21.95 g) and tetrahydrofuran (200 ml) is added a solution of ethyl glyoxylate hydrate (4.25 g) in tetrahydrofuran (20 ml) at 5° C. The mixture is stirred overnight at room temperature and refluxed for 30 minutes. To a mixture is added a 8% hydrogen chloride-ethanol solution (100 ml) at room temperature. The reaction mixture is stirred for 30 minutes, and evaporated to remove the solvent. The residue is dissolved in chloroform and washed successively with saturated sodium hydrogen carbonate solution and brine. The organic layer is dried and evaporated to remove the solvent. The crude residue is treated with a mixture of oxalic acid and ethanol to give ethyl 2-n-propyl-3-{2'-(1H-tetrazol-5-yl)biphenyl-4-yl}methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate oxalate (10.84 g).

reactant | 2-n-propyl-4-(2-aminoethyl)-1-{2'-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl}methylimidazole | 21.95 g | C(CC)C=1N(C=C(N1)CCN)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C41H39N7
reactant | ethyl glyoxylate hydrate | 4.25 g | O.C(C=O)(=O)OCC
reactant | hydrogen chloride ethanol | 100 ml | Cl.C(C)O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | ethyl 2-n-propyl-3-{2'-(1H-tetrazol-5-yl)biphenyl-4-yl}methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate oxalate | 10.84 g | C(C(=O)O)(=O)O.C(CC)C1=NC2=C(C(NCC2)C(=O)OCC)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | InChI=1S/C26H29N7O2.C2H2O4/c1-3-7-22-28-21-14-15-27-23(26(34)35-4-2)24(21)33(22)16-17-10-12-18(13-11-17)19-8-5-6-9-20(19)25-29-31-32-30-25;3-1(4)2(5)6/h5-6,8-13,23,27H,3-4,7,14-16H2,1-2H3,(H,29,30,31,32);(H,3,4)(H,5,6)
